US07625902B2
In analogy to example 2, [(S)-1-(2-chloro-benzenesulfonyl)-aziridin-2-yl]-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-methanone was reacted with sodium iodide and n-propylisocyanate to give (S)-1-(2-chloro-benzenesulfonyl)-3-propyl-4-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carbonyl]-imidazolidin-2-one as a colorless foam. MS: 559.6 ([M+H]+)

reactant | [(S)-1-(2-chloro-benzenesulfonyl)-aziridin-2-yl]-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-methanone | ClC1=C(C=CC=C1)S(=O)(=O)[N@@]1C(C1)C(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C19H18ClF3N4O3S
reactant | sodium iodide | [I-].[Na+]
reactant | n-propylisocyanate | C(CC)N=C=O | C4H7NO
product | (S)-1-(2-chloro-benzenesulfonyl)-3-propyl-4-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazine-1-carbonyl]-imidazolidin-2-one | ClC1=C(C=CC=C1)S(=O)(=O)N1C(N([C@@H](C1)C(=O)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)CCC)=O | C23H25ClF3N5O4S
